US04042373
12.4 Parts of 3-hydroxy-2-(4-chloro-2-fluorophenyl)-2,4,6,7-tetrahydro-thiopyrano[4,3-c]pyrazole was reacted with 6.7 parts of phosphorus oxychloride at 155° C. for 3 hours, the reaction mixture poured into 250 parts of chloroform and 250 parts of saturated aqueous NaHCO3 and stirred for 16 hours. The aqueous portion was extracted with 200 parts of chloroform, the chloroform portions combined and washed twice with 200 parts of water, dried with anhydrous magnesium sulfate, and evaporated under a reduced pressure of 50 to 300 mm Hg. to give 6.0 parts of 3-chloro-2-(4-chloro-2-fluorophenyl)-2,4,6,7-tetrahydro-thiopyrano[4,3-c]pyrazole as a black-brown oil which when contacted with a mixture of ether and pentane changed into a light brown solid, m.p. 97°-99° C.

reactant | 3-hydroxy-2-(4-chloro-2-fluorophenyl)-2,4,6,7-tetrahydro-thiopyrano[4,3-c]pyrazole | OC1=C2C(=NN1C1=C(C=C(C=C1)Cl)F)CCSC2 | C12H10ClFN2OS
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-2-(4-chloro-2-fluorophenyl)-2,4,6,7-tetrahydro-thiopyrano[4,3-c]pyrazole | ClC1=C2C(=NN1C1=C(C=C(C=C1)Cl)F)CCSC2 | C12H9Cl2FN2S
